US07531532B2
4-(Azetidin-1-yl)piperidine-1-carboxylic acid {6-[2-fluoro-4-(3-phenylacetylthioureido)phenoxy]pyrimidin-4-yl}amide
After dissolving 4-(azetidin-1-yl)piperidine-1-carboxylic acid [6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl]amide (40 mg) in ethanol (1 ml) under a nitrogen atmosphere, D-10-camphorsulfonic acid (22.3 mg) was added and the mixture was stirred for 5 minutes. Phenylacetyl isothiocyanate (34.1 mg)-acetonitrile (0.5 ml×3) was added thereto, and the mixture was stirred for 30 minutes. Ethyl acetate (30 ml) and saturated aqueous sodium hydrogencarbonate (20 ml) were added to the reaction mixture for partition, and the organic layer was washed with saturated aqueous sodium hydrogencarbonate (20 ml), water (20 ml) and brine (20 ml) and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The resultant residue was purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate) and then fractions containing the target compound were concentrated under reduced pressure. Diethyl ether (1.5 ml) and hexane (1.5 ml) were added to the resultant residue to produce a suspension. After filtering the solid, it was subjected to aeration drying to provide the title compound (33.5 mg, 61.8%) as white powder.

reactant | 4-(azetidin-1-yl)piperidine-1-carboxylic acid [6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl]amide | 40 mg | NC1=CC(=C(OC2=CC(=NC=N2)NC(=O)N2CCC(CC2)N2CCC2)C=C1)F | C19H23FN6O2
reactant | D-10-camphorsulfonic acid | 22.3 mg | CC1(C2CCC1(C(=O)C2)CS(=O)(=O)O)C | C10H16O4S
reactant | Phenylacetyl isothiocyanate | 34.1 mg | C1(=CC=CC=C1)CC(=O)N=C=S | C9H7NOS
reactant | sodium hydrogencarbonate | 20 ml | C(O)([O-])=O.[Na+]
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | Ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 0.5 ml | C(C)#N | C2H3N
product | 4-(Azetidin-1-yl)piperidine-1-carboxylic acid {6-[2-fluoro-4-(3-phenylacetylthioureido)phenoxy]pyrimidin-4-yl}amide | 33.5 mg, 61.8% | FC1=C(OC2=CC(=NC=N2)NC(=O)N2CCC(CC2)N2CCC2)C=CC(=C1)NC(=S)NC(CC1=CC=CC=C1)=O | C28H30FN7O3S
